US06469065B1
10d. 3-{[2-(2-sulfanyladamantan-2-yl)ethyl]oxycarbonyl}propanoic Acid
A solution of succinic anhydride (10 mmol, 1.00 g) and 2-(2-sulfanyladamantan-2-yl)ethan-1-ol (2.214 g, 10.4 mmol) in toluene (30 mL) was heated at 70° C. for 16 hours. Removal of the solvent under vacuum provided a low-melting solid, 3.12 g, 10 mmol. 1H NMR (CDCl3, 300 MHz): δ4.44 (t, J=7.4 Hz, 2H), 2.68 (m, 2H), 2.63 (m, 2H), 2.43 (m, 2H), 2.25 (t, J=7.4 Hz, 2H), 2.11 (m, 2H), 1.88-1.62 (m, 10H); MS (CI/NH3) (m/e) 330 (M+NH4), 279 (M-SH), 195, 161.

reactant | succinic anhydride | 10 mmol, 1.00 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 2-(2-sulfanyladamantan-2-yl)ethan-1-ol | 10.4 mmol, 2.214 g | SC1(C2CC3CC(CC1C3)C2)CCO | C12H20OS
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{[2-(2-sulfanyladamantan-2-yl)ethyl]oxycarbonyl}propanoic Acid | SC1(C2CC3CC(CC1C3)C2)CCOC(=O)CCC(=O)O | C16H24O4S
